US04094982
N-Ethyl 5-nitro-3-pyridinesulfonamide
A mixture of 0.5g. of 5-nitro-3-pyridinesulfonic acid, 0.5g. of phosphorous pentachloride and 15 ml. of phosphorous oxychloride was heated under reflux for 6 hours. After removing the solvent by evaporation, dry chloroform was added to give a powdery crystal. After adding the crystal to 2.5 ml. of 20% ethyl amine under cooling, the mixture was stirred for 1 at room temperature. Then, the mixture was diluted with water and extracted with ethyl acetate. The extact was washed with water and dried. After removing the solvent by evaporation and purification by chromatography, 0.2g. of the desired compound was obtained. m.p. 117°-118° C. Similarly, the following compounds were synthesized.

reactant | 5-nitro-3-pyridinesulfonic acid | [N+](=O)([O-])C=1C=C(C=NC1)S(=O)(=O)O | C5H4N2O5S
reactant | phosphorous pentachloride | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ethyl amine | C(C)N | C2H7N
solvent | water | O | H2O
product | N-Ethyl 5-nitro-3-pyridinesulfonamide | C(C)NS(=O)(=O)C=1C=NC=C(C1)[N+](=O)[O-] | C7H9N3O4S
